US06936602B1
In THF (11.2 ml) was dissolved methyl 7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1-benzazepine-4-carboxylate (0.56 g). To the solution were added pyridine (0.17 ml) and ethyl chloroformate (0.18 ml, and the mixture was stirred at room temperature for 3 hours. To the mixture was added 4-dimethylaminopyridine (169 mg), and the mixture was stirred at room temperature for 2 hours. The reaction solution was added to water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried with magnesium sulfate. The solvent was removed under reduced pressure, and the resulting residue was purified with silica gel column chromatography (hexane/ethyl acetate=3/1) to give methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(ethoxycarbonyl)-2,3-dihydro-1-benzazepine-4-carboxylate (580 mg).

reactant | methyl 7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1-benzazepine-4-carboxylate | 0.56 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C24H29NO4
reactant | pyridine | 0.17 ml | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | water | O | H2O
solvent | THF | 11.2 ml | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 169 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(ethoxycarbonyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 580 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C(=O)OCC)C(=O)OC)C1 | C27H33NO6
